US05134128
4-(1.9-Diacetoxynonyl)-2-trimethylsilylfuran
To 4-(1-acetoxy-9-hydroxynonyl)-2-trimethylsilylfuran (0.075 g, 0.221 mmol) and pyridine (0.056 g, 0.662 mmol) in tetrahydrofuran (2 ml) under argon at 0° was added dropwise acetyl chloride (0.052 g, 0.662 mmol). The mixture was warmed to room temperature, stirred for one hour, quenched with water and extracted into ethyl ether. The organic portion was washed with 10% hydrochloric acid, saturated sodium bicarbonate, aqueous 5% cupric sulfate solution, water, saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to an oil. Purification by flash chromatography (silica, 5 to 10% ethyl acetate/hexane) gave the desired product.

reactant | 4-(1-acetoxy-9-hydroxynonyl)-2-trimethylsilylfuran | 0.221 mmol, 0.075 g | C(C)(=O)OC(CCCCCCCCO)C=1C=C(OC1)[Si](C)(C)C | C18H32O4Si
reactant | pyridine | 0.662 mmol, 0.056 g | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.662 mmol, 0.052 g | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(1.9-Diacetoxynonyl)-2-trimethylsilylfuran | C(C)(=O)OC(CCCCCCCCOC(C)=O)C=1C=C(OC1)[Si](C)(C)C | C20H34O5Si
